US07777047B2
N-{2-[5-(hydroxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
To a solution of methyl 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylate (0.126 g) in tetrahydrofuran (5 ml) were successively added lithium borohydride (0.035 g) and methanol (1 ml), and the mixture was stirred at room temperature for 2 hr. Saturated aqueous sodium chloride solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=20:80-100:0), and recrystallized from hexane-ethyl acetate to give the title compound (0.105 g, yield 89%) as colorless crystals.

reactant | methyl 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylate | 0.126 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)C(=O)OC)S(=O)(=O)C=1SC=CC1 | C18H17N3O4S3
reactant | lithium borohydride | 0.035 g | [BH4-].[Li+]
reactant | methanol | 1 ml | CO | CH4O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-{2-[5-(hydroxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.105 g, yield 89% | OCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H17N3O3S3
